US07495007B2
To a solution of 5-bromo-2-hydroxy-benzaldehyde (14 g, 69.6 mmol) (Aldrich) in N,N-dimethylformamide (300 mL) was added K2CO3 (29 g, 208.9 mmol) and (2-bromo-ethoxy)-tert-butyl-dimethyl-silane (20 g, 83.5 mmol) (Aldrich). The reaction mixture was stirred at 60° C. for 16 h. The reaction mixture was cooled to room temperature and poured into water, extracted with ethyl acetate. The organic layers were combined, washed with water, brine, dried over MgSO4, filtered and concentrated to give 5-bromo-2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-benzaldehyde as brown oil (Yield: 25 g, 100%).

reactant | 5-bromo-2-hydroxy-benzaldehyde | 69.6 mmol, 14 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | K2CO3 | 208.9 mmol, 29 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (2-bromo-ethoxy)-tert-butyl-dimethyl-silane | 83.5 mmol, 20 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 5-bromo-2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-benzaldehyde | Yield: 25 g, 100% | BrC=1C=CC(=C(C=O)C1)OCCO[Si](C)(C)C(C)(C)C | C15H23BrO3Si
